US08431573B2
2-(3-Chlorobenzyl)-4-(cyclopentylamino)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.34 mmol) of 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 292 mg (3.43 mmol) of cyclopentylamine to give 10 mg (9% of theory) of the title compound.

reactant | 2-(3-chlorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.34 mmol, 100 mg | ClC=1C=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC1 | C13H10ClN3OS
reactant | cyclopentylamine | 3.43 mmol, 292 mg | C1(CCCC1)N | C5H11N
product | 2-(3-Chlorobenzyl)-4-(cyclopentylamino)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | ClC=1C=C(CC=2NC(C(=C(N2)NC2CCCC2)C#N)=O)C=CC1 | C17H17ClN4O
